US05006561
2-[N-Methyl-N-(4-nitrophenethyl)amino]-5-nitroindane
2-[N-Methyl-N-(4-nitrophenethyl)amino]indane hydrochloride (1.2 g) was added portionwise over 10 minutes to fuming nitric acid (20 ml, density=1.5 g/ml) cooled to -5°. Stirring was continued for a further 2 minutes before the reaction mixture was poured into ice/water. The water-containing mixture was extracted with methylene chloride and the organic extract was washed with aqueous sodium bicarbonate, dried (MgSO4) and evaporated to dryness in vacuo. The residue was rectystallised from ethanol to give the title compound, yield 0.78 g, m.p. 138°-140°.

reactant | 2-[N-Methyl-N-(4-nitrophenethyl)amino]indane hydrochloride | 1.2 g | Cl.CN(CCC1=CC=C(C=C1)[N+](=O)[O-])C1CC2=CC=CC=C2C1
reactant | nitric acid | 20 ml | [N+](=O)(O)[O-] | HNO3
solvent | water | O | H2O
product | 2-[N-Methyl-N-(4-nitrophenethyl)amino]-5-nitroindane | CN(CCC1=CC=C(C=C1)[N+](=O)[O-])C1CC2=CC=C(C=C2C1)[N+](=O)[O-] | C18H19N3O4
